US09278968B2
To a mixture of 1.17 g of methyl 2,2-dimethyl-5-(5-methylpyridin-2-yl)-1,3-dioxane-5-carboxylate, 14 ml of THF, and 14 ml of methanol was added 4.7 ml of a 1 M aqueous sodium hydroxide solution, followed by stirring at 50° C. for 20 hours. The reaction mixture was left to be cooled to room temperature and the solvent was then evaporated under reduced pressure to obtain 1.19 g of sodium 2,2-dimethyl-5-(5-methylpyridin-2-yl)-1,3-dioxane-5-carboxylate.

reactant | methyl 2,2-dimethyl-5-(5-methylpyridin-2-yl)-1,3-dioxane-5-carboxylate | 1.17 g | CC1(OCC(CO1)(C(=O)OC)C1=NC=C(C=C1)C)C | C14H19NO4
reactant | THF | 14 ml | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | methanol | 14 ml | CO | CH4O
product | sodium 2,2-dimethyl-5-(5-methylpyridin-2-yl)-1,3-dioxane-5-carboxylate | 1.19 g | CC1(OCC(CO1)(C(=O)[O-])C1=NC=C(C=C1)C)C.[Na+] | InChI=1S/C13H17NO4.Na/c1-9-4-5-10(14-6-9)13(11(15)16)7-17-12(2,3)18-8-13;/h4-6H,7-8H2,1-3H3,(H,15,16);/q;+1/p-1
